US04876284
tetralin hydrobromid
cis-5-Methoxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride (150 mg, 0.48 mmol) was heated in 48% aqueous HBr for 2 h at 120° C. under N2. The volatiles were evaporated in vacuo and the residue was applied to pre-coated PLC plates (silica gel 60 F254, Merck) which were eluted with CHCl3 -MeOH (9:1). After elution of the product the volatiles were evaporated in vacuo and the residue was recrystallized at least twice. giving cis-hydroxy-1-methyl-2-(di-n-propyl-amino)tetralin.Hbr (66 mg, 48%) of an isomeric purity >95% (GC, 225° C.) IR (KBr) ν3136 cm-1 (O-Hstr); NMR (MeOH-d4), δ1.05 (t,6H), δ1.31 (d,3H), δ1.50-3.74 (m,14H), δ6.44-6.69 (m,2H), δ6.81-7.07 (m,1H); MS (70 eV) m/z 261 (36%), 232 (100%), 161 (82%).

reactant | cis-5-Methoxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride | 0.48 mmol, 150 mg | Cl.COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCC
reactant | HBr | Br | BrH
product | tetralin hydrobromid | Br.C1CCCC2=CC=CC=C12 | InChI=1S/C10H12.BrH/c1-2-6-10-8-4-3-7-9(10)5-1;/h1-2,5-6H,3-4,7-8H2;1H
